US05196539
Example 4: Preparation of N-(2-Benzoyloxyethyl)-pyridinium m-Nitrobenzenesulfonate
A solution of 11.26 grams (0.05 mol) of sodium m-nitrobenzenesulfonate in 50 milliters of water was added to a solution of 15.41 grams (0.05 mole) of N-(2-benzoyloxyethyl)pyridinium bromide, prepared as described in Example 2, in 50 milliters of water. The resultant solution was treated with methylene chloride resulting in the formation of three layers. The center layer was isolated, treated with ligroine (bp=70°-90° C.) and allowed to stand with spatula scratching of the oil. Crystallization occurred and the solid was collected, washed with ether and recrystallized from acetonitrile. The yield of product was 6.6 grams (30.67% of theory); mp=128°-30° C.

reactant | sodium m-nitrobenzenesulfonate | 0.05 mol, 11.26 grams | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | N-(2-benzoyloxyethyl)pyridinium bromide | 0.05 mole, 15.41 grams | [Br-].C(C1=CC=CC=C1)(=O)OCC[N+]1=CC=CC=C1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(2-Benzoyloxyethyl)-pyridinium m-Nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].C(C1=CC=CC=C1)(=O)OCC[N+]1=CC=CC=C1 | InChI=1S/C14H14NO2.C6H5NO5S/c16-14(13-7-3-1-4-8-13)17-12-11-15-9-5-2-6-10-15;8-7(9)5-2-1-3-6(4-5)13(10,11)12/h1-10H,11-12H2;1-4H,(H,10,11,12)/q+1;/p-1
